US07872026B2
In a manner similar to that of Example 1c, by reaction of 700 mg (1.3 mmol) of ethyl 4′-(4-chlorobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate with 800 μl (11.5 mmol) of cyclopropylamine in 100 ml of ethanol. 180 mg of ethyl 4′-(2-cyclopropylaminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate are obtained in the form of a yellow oil (yield=26%).

reactant | ethyl 4′-(4-chlorobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 1.3 mmol, 700 mg | ClCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C33H39ClO3
reactant | cyclopropylamine | 11.5 mmol, 800 μl | C1(CC1)N | C3H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4′-(2-cyclopropylaminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 180 mg | C1(CC1)NC(COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)CC | C36H45NO3
